US07563805B2
tert-Butyl(3S)-3-{[tert-butyl(dimethyl)silyloxy]methyl}-4-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate
To a solution of tert-butyl(3S)-3-{[tert-butyl(dimethyl)silyloxy]methyl}-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate (8.65 g, 19.9 mmol) and iodomethane (1.37 mL, 21.9 mmol) in tetrahydrofuran (173 mL), lithium bistrimethylsilyl amide (21.9 mL, 21.9 mmol, 1M solution in tetrahydrofuran) was added in an ice bath, and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture, saturated aqueous solution of ammonium chloride (300 mL) was added, and the mixture was extracted with ethyl acetate (300 mL×2). The organic layer was washed with saturated aqueous solution of sodium chloride (200 mL), and dried with anhydrous sodium sulfate. After the filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (elusion by hexane:ethyl acetate, 7:1→1:1) to obtain 3.72 g (42%) of the title compound (single component) as a colorless oily substance.

reactant | tert-butyl(3S)-3-{[tert-butyl(dimethyl)silyloxy]methyl}-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 19.9 mmol, 8.65 g | [Si](C)(C)(C(C)(C)C)OC[C@]1(CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C24H39NO4Si
reactant | iodomethane | 21.9 mmol, 1.37 mL | IC | CH3I
reactant | lithium bistrimethylsilyl amide | 21.9 mmol, 1M, 21.9 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 173 mL | O1CCCC1 | C4H8O
product | tert-Butyl(3S)-3-{[tert-butyl(dimethyl)silyloxy]methyl}-4-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 3.72 g, 42% | [Si](C)(C)(C(C)(C)C)OC[C@]1(CN(C(C1C)=O)[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C25H41NO4Si
